US08536210B2
Step 1: 6-(Ethylthio)-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde
The process described in Method D was followed. 6-Chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde (0.303 g, 1.50 mmol) and ethanethiol were used to obtain the title compound. The crude product was purified by column chromatography with a mixture of n-hexane:ethyl acetate (1:1) as the eluent.

reactant | 6-Chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | 1.50 mmol, 0.303 g | ClC1=C(C(N(C(N1C)=O)C)=O)C=O | C7H7ClN2O3
reactant | ethanethiol | C(C)S | C2H6S
product | 6-(Ethylthio)-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | C(C)SC1=C(C(N(C(N1C)=O)C)=O)C=O | C9H12N2O3S
